US06559166B1
b) 1-[2-(2,4-Difluorophenyl)ethyl]-4-(4-hydroxymethylphenylsulphonyl)piperidine
1-(2-(2,4-Difluorophenyl)ethyl]-4-(4-methoxycarbonylphenylsulphonyl)piperidine (0.6 g, 1.42 mmol) was dissolved in anhydrous CH2Cl2 (15 ml) and stirred under nitrogen at −78° C. DIBAL-H (1M in THF, 4.25 ml, 4.25 mmol) was added dropwise. The reaction mixture was stirred at −78° C. for 15 min, allowed to warm up to room temperature and stirred for 1 h. Crushed Na2SO4.10H2O (5 eq.) was added and the mixture left at room temperature overnight. Inorganic solid was filtered off and washed with CH2Cl2 and EtOAc. The organic filtrate was concentrated to give a beige solid. δH (360 MHz, CDCl3) 1.64-1.77 (2H, m), 1.94-2.06 (4H, m), 2.47-2.55 (2H, m), 2.70-2.76 (2H, m), 2.83-2.94 (2H, m), 3.02-3.08 (2H, m), 4.82 (2H, s), 6.71-6.82 (2H, m), 7.06-7.14 (1H, m), 7.55 (2H, d, 8 Hz), 7.85 (2H, d, 8 Hz).

reactant | 1-(2-(2,4-Difluorophenyl)ethyl]-4-(4-methoxycarbonylphenylsulphonyl)piperidine | 1.42 mmol, 0.6 g | FC1=C(C=CC(=C1)F)CCN1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)C(=O)OC | C21H23F2NO4S
reactant | DIBAL-H | 4.25 mmol, 1M, 4.25 ml | CC(C)C[AlH]CC(C)C
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(2,4-Difluorophenyl)ethyl]-4-(4-hydroxymethylphenylsulphonyl)piperidine | FC1=C(C=CC(=C1)F)CCN1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)CO | C20H23F2NO3S
